US07544697B2
Hydrazine hydrate (4.26 g, 85.1 mmol) was added to a solution of 4-bromo-1-ethyl-5-(2-phthalimidoethyl)-1H-pyrazole-3-carbonitrile (6.35 g, 17.0 mmol) in ethanol, and the solution was heated at reflux for one hour and cooled to ambient temperature. A precipitate formed and was isolated by filtration and washed with cold ethanol. The filtrate was concentrated under reduced pressure, and the resulting white solid was twice treated with toluene and concentrated under reduced pressure. The combined solids were dissolved in 1-methyl-2-pyrrolidinone (NMP) (30 mL), and di-tert-butyl dicarbonate (4.37 g, 20.0 mmol) was added. The reaction was stirred overnight, and additional di-tert-butyl dicarbonate (0.50 g, 2.3 mmol) was added. The reaction was stirred for 25 minutes and cooled to 0° C. Water (350 mL) was added to form a precipitate, and the mixture was stirred for 30 minutes. The solid was isolated by filtration, washed with water, and purified by chromatography on a HORIZON HPFC system (65I cartridge, eluting with hexanes/ethyl acetate in a gradient from 60:40 to 40:60) to provide 5.73 g of [2-(4-bromo-5-cyano-2-ethyl-2H-pyrazol-3-yl)ethyl]tert-butyl carbamate as a white solid.

reactant | Hydrazine hydrate | 85.1 mmol, 4.26 g | O.NN
reactant | 4-bromo-1-ethyl-5-(2-phthalimidoethyl)-1H-pyrazole-3-carbonitrile | 17.0 mmol, 6.35 g | BrC=1C(=NN(C1CCN1C(C=2C(C1=O)=CC=CC2)=O)CC)C#N | C16H13BrN4O2
reactant | di-tert-butyl dicarbonate | 20.0 mmol, 4.37 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 2.3 mmol, 0.50 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 350 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | [2-(4-bromo-5-cyano-2-ethyl-2H-pyrazol-3-yl)ethyl]tert-butyl carbamate | 5.73 g | C(N)(OC(CCCC=1N(N=C(C1Br)C#N)CC)(C)C)=O | C13H19BrN4O2
